US06797823B1
N-(2-Chloro-4-{[7-(2-hydroxyethoxy)-6-methoxy-4-quinazolinyl]oxy}phenyl)-N′-propylurea
N-{2-Chloro-4-[(7-hydroxy-6-methoxy-4-quinazolinyl)oxy]phenyl}-N′-propylurea (50 mg), potassium carbonate (30 mg), and ethylenebromohydrin (44 μl) were dissolved in N,N-dimethylformamide (4 ml), and the solution was stirred at room temperature for 3 hr. The solvent was removed by distillation under the reduced pressure. Water was added to the residue, and the mixture was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by chromatography on silica gel by development with chloroform/methanol to give 12 mg (yield 22%) of the title compound.

reactant | N-{2-Chloro-4-[(7-hydroxy-6-methoxy-4-quinazolinyl)oxy]phenyl}-N′-propylurea | 50 mg | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)O)NC(=O)NCCC | C19H19ClN4O4
reactant | potassium carbonate | 30 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethylenebromohydrin | 44 μl | C(CO)Br | C2H5BrO
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | N-(2-Chloro-4-{[7-(2-hydroxyethoxy)-6-methoxy-4-quinazolinyl]oxy}phenyl)-N′-propylurea | 12 mg, yield 22% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCO)NC(=O)NCCC | C21H23ClN4O5
